US05756531
Preparation of 3-oxopropionic acid-O-2-[Z-5-fluoro-2-methyl-1-(4-methylthiophenyl)methylene-1H-inden-3-yl]ethyl oxime
The title compound is prepared by reaction of O-2-[Z-5-fluoro-2-methyl-1-(4-methylthiophenyl)methylene-1H-inden-3-yl]ethyl hydroxylamine with 3-oxopropionic acid by the method of Example 1.

reactant | O-2-[Z-5-fluoro-2-methyl-1-(4-methylthiophenyl)methylene-1H-inden-3-yl]ethyl hydroxylamine | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)SC)C)CCON | C20H20FNOS
reactant | 3-oxopropionic acid | O=CCC(=O)O | C3H4O3
product | 3-oxopropionic acid-O-2-[Z-5-fluoro-2-methyl-1-(4-methylthiophenyl)methylene-1H-inden-3-yl]ethyl oxime | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)SC)C)CCON=C(CC=O)O | C23H22FNO3S
